US05684204
1-(3,5-di-t-butyl-4-hydroxyphenyl)-2-(ethylsulfonyl)ethanone
This material is prepared from impure 1-(3,5-di-t-butyl-4-hydroxyphenyl)-2-(ethylsulfanyl)ethanone (following the method of 1-(3,5,-di-t-butyl-4-hydroxyphenyl)-2-(methylsulfonyl)ethanone). Crystallization (of the crude product) from EtOAc/hexanes followed by a second crystallization then a flash chromatography with EtOAc followed by a third crystallization with refrigeration gives white crystals, mp=119.5°-120.5° C.

reactant | 1-(3,5-di-t-butyl-4-hydroxyphenyl)-2-(ethylsulfanyl)ethanone | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(CSCC)=O | C18H28O2S
reactant | 1-(3,5,-di-t-butyl-4-hydroxyphenyl)-2-(methylsulfonyl)ethanone | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(CS(=O)(=O)C)=O | C17H26O4S
product | 1-(3,5-di-t-butyl-4-hydroxyphenyl)-2-(ethylsulfonyl)ethanone | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(CS(=O)(=O)CC)=O | C18H28O4S
